US06380218B1
4,5-Dichloro-thiophene-2-carboxylic acid
Into a solution of sodium hydroxide (19.2 grams, 48.0 mmole) in water (30 ml) and ice (120 g) at −10° C. was bubbled Cl2 gas until 14.4 g was obtained. The solution was warmed to 50° C. and 1-(4,5-Dichloro-thiophen-2-yl)-ethanone (8.5 0 grams, 40.0 mmole) in dioxane (40 ml) was added dropwise as the temperature rose to 80-90° C. This temperature was maintained for 30 minutes. The mixture was poured into 500 ml water. This was extracted with diethyl ether, and the aqueous was treated with NaHSO3, then acidified to pH 1 with concentrated HCl. The resultant precipitate was filtered, and dried to give a white solid. (5.7 g). MW 197.04; 1H NMR (DMSO-d6) d 7.731 (1H, s).

reactant | sodium hydroxide | 48.0 mmole, 19.2 grams | [OH-].[Na+]
reactant | Cl2 | ClCl | Cl2
reactant | 1-(4,5-Dichloro-thiophen-2-yl)-ethanone | 40.0 mmole, 0 grams | ClC=1C=C(SC1Cl)C(C)=O | C6H4Cl2OS
solvent | water | 30 ml | O | H2O
solvent | dioxane | 40 ml | O1CCOCC1 | C4H8O2
solvent | water | 500 ml | O | H2O
product | 4,5-Dichloro-thiophene-2-carboxylic acid | ClC=1C=C(SC1Cl)C(=O)O | C5H2Cl2O2S
